US06747032B2
Step A: 2-Chloromethyl-naphthalene
To 1.26 mol of naphth-2-yl-methanol in 1.5 liters of toluene there are slowly added 3.8 mol of thionyl chloride. The mixture is then heated at reflux for two hours. After cooling, the solvent is evaporated off. The crude product is taken up in toluene twice and evaporated. The oil obtained is taken up in dichloromethane, washed and dried. After filtering and evaporating, the oil obtained is distilled to yield the expected product.

reactant | naphth-2-yl-methanol | 1.26 mol | C1=C(C=CC2=CC=CC=C12)CO | C11H10O
reactant | thionyl chloride | 3.8 mol | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 1.5 liters | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Chloromethyl-naphthalene | ClCC1=CC2=CC=CC=C2C=C1 | C11H9Cl
